data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_25033_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:6](/[N:5]([H:10])[H:11])[H:14])([O:7][C:2]([H:15])([H:16])[H:17])([H:12])[H:13]>>[C:1](=[C:3]([N:4]([H:8])[H:9])[C:6]([N:5]([H:10])[H:11])([O:7][C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13],49.503475000000776
MR_436663_1,[C:1]([C:3]1([N:5]([H:16])[H:17])[C:2]([N:6]([H:14])[H:15])([H:11])[O:8]1)([N:4]([H:12])[H:13])([O:7][H:9])[H:10]>>[C:1]([C:3]([C:2]([N:5]([H:16])[H:17])([N:6]([H:14])[H:15])[H:11])=[O:8])([N:4]([H:12])[H:13])([O:7][H:9])[H:10],18.41210499995526
MR_524672_0,[C@@:1]([C:3]([N:2]([N:4]([H:11])[H:12])[H:9])=[C:6]([H:15])[H:16])([N:5]([H:13])[H:14])([O:7][H:8])[H:10]>>[C@:1]([N:2]([N:4]([H:11])[H:12])[H:9])([C:3](=[C:6]([H:15])[H:16])[O:7][H:8])([N:5]([H:13])[H:14])[H:10],65.65407000003006
MR_431436_0,[C:1](\[C:2]([C:5]([N:6]([H:9])[H:12])([H:7])[H:15])([H:13])[H:14])(=[N:3]/[H:8])[N:4]([H:10])[H:11]>>[C:1]([C:2](/[C:5](=[N:6]/[H:12])[H:15])([H:13])[H:14])([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:7],66.17175749997145
MR_595992_1,[C@@:1]([N:3]([H:12])[H:13])([C:4](=[C:2]([O:5][H:8])[O:6][H:9])[H:14])([O:7][H:10])[H:11]>>[C:1](=[C:4](/[C:2]([N:3]([H:12])[H:13])([O:5][H:8])[O:6][H:9])[H:14])(\[O:7][H:10])[H:11],64.72725250001588
MR_119777_0,[C:1]([N:5][C:4]([N:2]([N:3]([H:7])[H:8])[H:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:5](/[C:4](=[N:2]\[N:3]([H:7])[H:8])[H:9])[H:6])([H:10])([H:11])[H:12],45.96876749998991
MR_66291_0,[C@:1]12([C:2]([H:11])([H:12])[H:16])[N:4]([H:8])[C@:6]([C:3]([H:13])([H:14])[H:15])([H:10])[C@@:5]1([H:9])[O:7]2>>[C:1]1([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])[N:4]([H:8])[C:6]([H:10])=[C:5]([H:9])[O:7]1,57.8674225000357
MR_239834_1,[C@@:1](/[C:3]([N:4]([H:11])[H:12])=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:14])([O:6][H:9])(/[N:7]=[N:8]\[H:13])[H:10]>>[C:1](=[C:3](\[N:4]([H:11])[H:12])[C@@:5]([C:2]([H:15])([H:16])[H:17])(/[N:7]=[N:8]\[H:13])[H:14])(\[O:6][H:9])[H:10],60.73635249999754
MR_364332_2,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](/[N:4]([H:11])[H:12])[N:8]([C:5](=[C:6]([H:17])[H:18])[H:13])[O:7][H:9])[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3]([N:4]([H:11])[H:12])=[N:8]/[O:7][H:9])([C:5](=[C:6]([H:17])[H:18])[H:13])[H:10],51.21906000002099
MR_579373_0,[C:1]([N:4]([C:5](=[C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])[N:7]([H:10])[H:11])/[C:8](=[N:9]\[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:4]=[C:5](/[C:6]([C:2]([H:17])([H:18])[H:19])([C:3]([H:20])([H:21])[H:22])/[C:8](=[N:9]\[H:12])[H:13])[N:7]([H:10])[H:11])([H:14])([H:15])[H:16],46.180862500007294
MR_305477_1,[C:1]([C:4]([N:2]([N:3]([N:5]([H:10])[H:11])[H:9])[O:6][H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:2]=[O:6])([N:3]([N:5]([H:10])[H:11])[H:9])[O:7][H:8])([H:12])([H:13])[H:14],36.6616875000355
MR_338696_0,[C:1]1([C:4]([C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:2]([N:8]([H:11])[H:12])([H:10])[C:3]1([H:13])[H:14]>>[C:1]([C:3]([C:2]([C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])([N:8]([H:11])[H:12])[H:10])([H:13])[H:14])(=[C:4]([H:15])[H:16])[C:5]([H:17])([H:18])[H:19],60.555004999991695
MR_379996_2,[C:1](\[C:3]([H:16])([H:17])[H:18])([C:4]([C:6](=[C:7]([H:19])[H:20])[H:12])([O:8][C:2]([H:13])([H:14])[H:15])[O:9][H:11])=[N:5]\[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([C:6](=[C:7]([H:19])[H:20])[H:12])=[O:9])([N:5]([H:10])[H:11])[O:8][C:2]([H:13])([H:14])[H:15],20.45210750001246
MR_704091_1,[C:1](/[C:5](=[C:3](\[N:4]([H:10])[H:11])[O:6][C:2]([O:7][H:9])=[O:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:2]([O:7][H:9])=[O:8])([C:3]([N:4]([H:10])[H:11])=[O:6])[H:12])([H:13])([H:14])[H:15],37.36699750000256
MR_616348_0,[C@@:1]1([C:2]([H:9])([H:10])[H:11])([H:7])[O:4][O:5][C:3]([H:8])=[N:6]1>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[N:6]/[C:3]1([H:8])[O:4][O:5]1)[H:7],65.28949250002313
MR_656419_0,[N:1]([N:2]([H:7])[H:8])([O:3][N:4]=[O:5])[H:6]>>[N:1]([N:2]([H:7])[H:8])([O:3][H:6])[N:4]=[O:5],53.047594999970045
MR_694336_0,[C:1](=[N:2][O:7][C:4]([N:3]([C:5]([N:6]([H:11])[H:12])=[O:9])[H:10])=[O:8])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:2]([C:5]([N:6]([H:11])[H:12])=[O:9])[O:7][C:4](=[O:8])[N:3]1[H:10],72.13740000003341
MR_317515_0,[C:1]([O:3][H:6])([N:4]=[C:2]([H:7])[H:8])=[O:5]>>[C:1]1([O:3][H:6])=[N:4][C:2]([H:7])([H:8])[O:5]1,44.41319500001157
MR_201036_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:11])[H:10])([O:6][H:9])[N:7]=[O:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[C:4]([N:7]=[O:8])([H:10])[C:5]1([C:3]([H:15])([H:16])[H:17])[H:11],67.09543750002922
MR_477753_0,[C@@:1]([C:2](/[C:5](=[C:7](\[C:4]([H:20])([H:21])[H:22])[H:16])[O:9][H:12])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([C:6](=[O:10])[H:13])[O:8][H:11]>>[C@@:1]1([C:3]([H:17])([H:18])[H:19])([O:8][H:11])[C:2]([H:14])([H:15])[C@:5]1([C@@:7]([C:4]([H:20])([H:21])[H:22])([C:6](=[O:10])[H:13])[H:16])[O:9][H:12],50.07575500001835
